US05124327
Step D: 2-Phenylsulfinylmethyl-3 -phenylthioindole
A solution of 3-phenylthio-2-phenylthiomethylindole (0.750 g, 2.94 mmol) in methanol (100 mL) was cooled to 0° C. with stirring. Monoperoxyphthalic acid magnesium salt (0.908 g 80% peracid) in methanol (50 mL) was added slowly dropwise. After addition, the reaction was stirred an additional 30 min., then quenched with 10% aqueous sodium thiosulfate (2 mL). The methanol was removed in vacuo, and the residue partitioned between ethyl acetate and water. The organic phase was washed successively with water and saturated brine, then dried over magnesium sulfate. Filtration and concentration of the filtrate in vacuo gave an oil which was purified by chromatography on silica gel using 20-30% ethyl acetate in hexane. The title compound was obtained as a foam, mp 71°-74° C. Exact mass calculated for C21H17NOS2 : 364.082982. Found: 364.084549. NMR (DMSO-d6) δ11.82 (1H, s), 7.50 (6H, m), 7.23 (1H, d, J=8 Hz), 7.15 (3H, m) 7.05 (2H, m) 6.90 2H, m), 4.43 (1H, d, J=13 Hz), 4.38 (1H, d, J=13 Hz).

reactant | 3-phenylthio-2-phenylthiomethylindole | 2.94 mmol, 0.750 g | C1(=CC=CC=C1)SC1=C(NC2=CC=CC=C12)CSC1=CC=CC=C1 | C21H17NS2
reactant | Monoperoxyphthalic acid magnesium salt | 0.908 g | [Mg+2].C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-]
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
product | 2-Phenylsulfinylmethyl-3 -phenylthioindole | C1(=CC=CC=C1)S(=O)CC=1NC2=CC=CC=C2C1SC1=CC=CC=C1 | C21H17NOS2
